US05045552
2-[4-(2-Hydroxyethoxy)-3-methylpyridine-2-yl]methylsulfinyl-5-methoxy-1H-benzimidazole
0.9 g of 2-[4-(2-hydroxyethoxy)-3-methylpyridine-2-yl]methylthio-5-methoxy-1H-benzimidazole was dissolved in a mixture comprising 5 ml of methanol and 80 ml of dichloromethane to obtain a solution. 0.51 g of m-chloroperbenzoic acid was added to this solution at -60° C. The obtained mixture was stirred at -50° to -40° C. for 4.5 hours, followed by the addition of 0.38 g of triethylamine. A saturated aqueous solution of sodium hydrogencarbonate was added to the obtained mixture and the resulting mixture was extracted with chloroform. The extract was dried over magnesium sulfate and filtered. The filtrate was distilled under a reduced pressure to obtain a crude product. This crude product was crystallized from dichloromethane/isopropyl ether to obtain 0.58 g of the title compound.

reactant | 2-[4-(2-hydroxyethoxy)-3-methylpyridine-2-yl]methylthio-5-methoxy-1H-benzimidazole | 0.9 g | OCCOC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC(=C2)OC)C | C17H19N3O3S
reactant | m-chloroperbenzoic acid | 0.51 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | triethylamine | 0.38 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 2-[4-(2-Hydroxyethoxy)-3-methylpyridine-2-yl]methylsulfinyl-5-methoxy-1H-benzimidazole | 0.58 g | OCCOC1=C(C(=NC=C1)CS(=O)C1=NC2=C(N1)C=CC(=C2)OC)C | C17H19N3O4S
